US07501414B2
9b 2-Cyclopentyl-N-(2,6-diisopropyl-4-morpholin-4-yl-phenyl)-acetamide
To a solution of 2,6-diisopropyl-4-morpholin-4-yl-phenylamine (279 mg) and pyridine (245 μL) in tetrahydrofuran (2 mL) was added cyclopentylacetyl chloride (210 μL) and the mixture was stirred for 1 hour at 25° C. The reaction mixture was diluted with ethyl acetate (20 mL) and washed with 10% aqueous sodium bicarbonate (20 mL) and brine (20 mL). The organic phase was dried over sodium sulfate, concentrated in vacuo and purified by flash chromatography. Recrystallisation of the crude brown material from hot ethyl acetate/heptane furnished 122 mg (33%) of the title compound as a white solid. LC-MS (m/z) 373 (MH+); tR=2.58, (UV, ELSD) 98%, 99%. 1H NMR (500 MHz, CDCl3): 1.19 (d, 12H), 1.27 (m, 2H), 1.60 (m, 2H), 1.68 (m, 2H), 1.93 (m, 2H), 2.40 (m, 1H), 2.41 (m, 2H), 3.05 (m, 2H), 3.17 (m, 4H), 3.87 (m, 4H), 6.49 (s, 1H), 6.70 (s, 2H).

reactant | 2,6-diisopropyl-4-morpholin-4-yl-phenylamine | 279 mg | C(C)(C)C1=C(C(=CC(=C1)N1CCOCC1)C(C)C)N | C16H26N2O
reactant | pyridine | 245 μL | N1=CC=CC=C1 | C5H5N
reactant | cyclopentylacetyl chloride | 210 μL | C1(CCCC1)CC(=O)Cl | C7H11ClO
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 2-Cyclopentyl-N-(2,6-diisopropyl-4-morpholin-4-yl-phenyl)-acetamide | 122 mg, 33% | C1(CCCC1)CC(=O)NC1=C(C=C(C=C1C(C)C)N1CCOCC1)C(C)C | C23H36N2O2
